2104-02-06 09:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Received a total 280mg Valium over past 16h, 360mg during the day shift
   yesterday. This am episode of sudden desat to mid 70s after meds were
   given. Recovered sats on NRB, copious white-yellow secretions
   suctioned.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2104-2-6**] 06:15 AM
   Other medications:
   MVI, thiamine, folate, omeprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-2-6**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 117 (99 - 124) bpm
   BP: 90/75(78) {84/48(65) - 137/98(102)} mmHg
   RR: 25 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  1,079 mL
                                                                    120 mL
   PO:
                  120 mL
   TF:
   IVF:
                                                                  1,079 mL
   Blood products:
   Total out:
                                                                  2,225 mL
                                                                    250 mL
   Urine:
                                                                  2,225 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,146 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Diaphoretic
   Cardiovascular: (S1: Normal), (S2: Normal), tachy, no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: diffusely)
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   12.6 g/dL
   62 K/uL
   97 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.4 mEq/L
   5 mg/dL
   100 mEq/L
   135 mEq/L
   35.6 %
   8.6 K/uL
        [image002.jpg]
                             [**2104-2-4**]  07:23 PM
                             [**2104-2-5**]  03:06 AM
                             [**2104-2-5**]  05:29 PM
                             [**2104-2-6**]  03:32 AM
   WBC
   4.4
   8.6
   Hct
   33.0
   35.6
   Plt
   53
   62
   62
   Cr
   0.5
   0.6
   0.6
   0.6
   Glucose
   73
   90
   86
   97
   Other labs: PT / PTT / INR:13.4/30.4/1.2, Ca++:8.0 mg/dL, Mg++:1.5
   mg/dL, PO4:1.8 mg/dL
   Imaging: CXR- clear lung fields
   Assessment and Plan
   RESPIRATORY DISTRESS- combination of sedation/ hypoventilation as well
   as poss aspiration
   -pulm toilet, head of bed up >30deg, npo
   -defer ABX for now but will monitor for signs of evolving infxn
   ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   -Interested in Detox - Planning on Addiction Consult
   -On Valium CIWA Scale --> will back off benzo use today
   -thiamine, folate x3d then MVI
   -follow lytes
   ESOPHAGEAL STRICTURE- GI to follows - needs dilation
   S/P TB -Treated comprehensively in past - CXR Clear
   Chronic Liver Disease - no current evidence of acute issues/ GI to
   follow
   Thrombocyptopenia - Chronic - related to EtOH, splenic sequestration,
   BM suppression
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2104-2-5**] 03:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2104-02-07 10:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Febrile to [**Age over 90 1287**] yest and started on broad ABX for poss asp pna.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2104-2-7**] 08:00 AM
   Aztreonam - [**2104-2-7**] 08:00 AM
   Metronidazole - [**2104-2-7**] 08:00 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2104-2-6**] 12:50 PM
   Pantoprazole (Protonix) - [**2104-2-7**] 08:00 AM
   Other medications:
   Haldol prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-2-7**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 36.8
C (98.3
   HR: 109 (97 - 135) bpm
   BP: 100/75(82) {94/52(69) - 144/83(100)} mmHg
   RR: 25 (20 - 46) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,447 mL
                                                                    805 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  2,327 mL
                                                                    805 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                    415 mL
   Urine:
                                                                    660 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,787 mL
                                                                    390 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.47/31/99.[**Numeric Identifier 508**]/22/0
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: No acute distress, Diaphoretic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : R base,
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Tender: diffusely
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, not tremulous
   Labs / Radiology
   10.8 g/dL
   71 K/uL
   117 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.6 mEq/L
   7 mg/dL
   106 mEq/L
   137 mEq/L
   30.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2104-2-4**]  07:23 PM
                             [**2104-2-5**]  03:06 AM
                             [**2104-2-5**]  05:29 PM
                             [**2104-2-6**]  03:32 AM
                             [**2104-2-6**]  02:05 PM
                             [**2104-2-7**]  02:02 AM
   WBC
   4.4
   8.6
   6.5
   Hct
   33.0
   35.6
   30.7
   Plt
   53
   62
   62
   71
   Cr
   0.5
   0.6
   0.6
   0.6
   0.5
   TCO2
   23
   Glucose
   73
   90
   86
   97
   117
   Other labs: PT / PTT / INR:13.4/30.4/1.2, Lactic Acid:1.1 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR-
   Assessment and Plan
   RESPIRATORY DISTRESS- combination of sedation/ hypoventilation as well
   as poss aspiration, no evidence of pna
   -d/c empiric abx as no evidence of pna
   -pulm toilet, head of bed up >30deg
   ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   -Interested in Detox - Planning on Addiction Consult
   -appeared benzo toxic yest, today using Haldol prn and allowing to
   auto-taper off large benzo load
   -poss psych consult
   -s/p thiamine, folate x3d, now MVI
   -follow lytes
   ESOPHAGEAL STRICTURE- GI to follows - needs dilation at some point
   -trial of clears today
   S/P TB -Treated comprehensively in past - CXR Clear
   Chronic Liver Disease - no current evidence of acute issues/ GI to
   follow
   Thrombocyptopenia - Chronic - related to EtOH, splenic sequestration,
   BM suppression
   Anemia- no clinical signs of bleeding. cont to follow.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2104-2-7**] 03:13 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes